US04256481
Preparation of N-dichloroacetyl-1-oxa-5-azaspiro[5,5]undecane (compound 19)
From a boiling mixture of 17.6 g. (0.18 moles) of cyclohexanone and 11.2 g. (0.15 moles) of 3-aminopropanol in 50 ml. of benzene the water formed is continuously distilled off. Boiling is continued until 2.7 ml. of water are separated. The reaction mixture is then cooled and 16 ml. (0.165 moles) of a 40% aqueous sodium hydroxide solution are added followed by a subsequent dropwise addition of 22.1 g. (0.15 moles) of dichloroacetyl chloride, with external salt/ice cooling.

reactant | cyclohexanone | 0.18 moles | C1(CCCCC1)=O | C6H10O
reactant | 3-aminopropanol | 0.15 moles | NCCCO | C3H9NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dichloroacetyl chloride | 0.15 moles | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | O | H2O
product | N-dichloroacetyl-1-oxa-5-azaspiro[5,5]undecane | ClC(C(=O)N1CCCOC12CCCCC2)Cl | C11H17Cl2NO2
